US07884207B2
To a solution of 2-(ethoxymethyl)-1-[(1-methoxycyclopentyl)methyl]-1H-imidazo[4,5-c]quinoline (0.30 g, 0.88 mmol) in dichloromethane at rt was added m-CPBA (278 mg, 0.88 mmol). The solution was stirred for 1.5 h and concentrated ammonium hydroxide (5.73 mL) was added and the mixture was cooled in an ice bath. To the mixture was added TsCl (176 mg, 0.924 mmol). The mixture was stirred 3 h at rt. Water (10 mL) was added and the mixture was extracted with dichloromethane (3×20 mL). The combined organics were washed twice with brine, dried over Na2SO4, filtered, and concentrated to a yellow oil. The crude product was purified by flash chromatography (silica gel, gradient elution with 1-10% CMA/CHCl3). The purified product was crystallized from acetonitrile to provide 2-(ethoxymethyl)-1-[(1-methoxycyclopentyl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine as off white crystals (0.122 g, 39%) after vacuum drying at 80° C., mp 148.0-150.0° C.

reactant | 2-(ethoxymethyl)-1-[(1-methoxycyclopentyl)methyl]-1H-imidazo[4,5-c]quinoline | 0.88 mmol, 0.30 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCC1)OC | C20H25N3O2
reactant | m-CPBA | 0.88 mmol, 278 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 5.73 mL | [OH-].[NH4+]
reactant | TsCl | 0.924 mmol, 176 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | 10 mL | O | H2O
product | 2-(ethoxymethyl)-1-[(1-methoxycyclopentyl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1(CCCC1)OC | C20H26N4O2
